US04629731
N-(2,6-Dichlorophenyl)-N'-4-pyridinyl Urea
A solution of 4.7 g (0.05 mole) of 4-aminopyridine in 300 ml of anhydrous tetrahydrofuran was treated with 9.4 g (0.05 mole) of 2,6-dichlorophenylisocyanate. The solution was heated at reflux for 24 hours, cooled, and concentrated in vacuo to a solid. Recrystallization from aqueous ethanol afforded the crystalline product, mp 217°-219° C.

reactant | 4-aminopyridine | 0.05 mole, 4.7 g | NC1=CC=NC=C1 | C5H6N2
reactant | 2,6-dichlorophenylisocyanate | 0.05 mole, 9.4 g | ClC1=C(C(=CC=C1)Cl)N=C=O | C7H3Cl2NO
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | N-(2,6-Dichlorophenyl)-N'-4-pyridinyl Urea | ClC1=C(C(=CC=C1)Cl)NC(=O)NC1=CC=NC=C1 | C12H9Cl2N3O
